US07473784B2
To a solution of a mixture of 3-(2-fluorophenyl)-1-methyl-1H-pyrazole and 5-(2-fluorophenyl)-1-methyl-1H-pyrazole (6.77 g, 38.4 mmol, 1.0 eq.) in chloroform (10 mL) under nitrogen at 0° C. was added a solution of bromine (2.0 mL, 39.0 mmol, 1.0 eq.) in chloroform (5 mL) over 10 min. After 50 min, the reaction mixture was diluted with chloroform and washed with saturated aqueous NaHCO3 (3×), dried over Na2SO4, filtered, and concentrated in vacuo. Silica gel chromatography using hexanes:EtOAc (10:1) as eluent afforded 4-bromo-5-(2-fluorophenyl)-1-methyl-1H-pyrazole as a white solid (2.70 g, 28% yield), a mixture (0.65 g, 7% yield) and 4-bromo-3-(2-fluorophenyl)-1-methyl-1H-pyrazole as a white solid (5.94 g, 61% yield).

reactant | 3-(2-fluorophenyl)-1-methyl-1H-pyrazole | FC1=C(C=CC=C1)C1=NN(C=C1)C | C10H9FN2
reactant | 5-(2-fluorophenyl)-1-methyl-1H-pyrazole | 38.4 mmol, 6.77 g, 1.0 eq. | FC1=C(C=CC=C1)C1=CC=NN1C | C10H9FN2
reactant | bromine | 39.0 mmol, 2.0 mL, 1.0 eq. | BrBr | Br2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-5-(2-fluorophenyl)-1-methyl-1H-pyrazole | 2.70 g, 28% yield | BrC=1C=NN(C1C1=C(C=CC=C1)F)C | C10H8BrFN2
